US07595398B2
1.0 g (13.2 mmol) of thiourea, sodium acetate (2.2 g 26.4 mmol), and 25 mL of dry ethanol were combined in a 25 mL round bottom flask. To this suspension was added nitrobenzene bromoacetate (4.2 g, 1.72 mmol). Reaction mixture was heated under reflux overnight. This suspension was cooled to room temperature. The solid was collected by suction filtration and washed using water. The resulting solid was dried to yield 4-(4-nitro-phenyl)-thiazol-2-ylamine. MS: 222.1 (M+H+).

reactant | thiourea | 13.2 mmol, 1.0 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 26.4 mmol, 2.2 g | C(C)(=O)[O-].[Na+]
reactant | nitrobenzene bromoacetate | 1.72 mmol, 4.2 g | BrCC(=O)O.[N+](=O)([O-])C1=CC=CC=C1
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-(4-nitro-phenyl)-thiazol-2-ylamine | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=C(SC1)N | C9H7N3O2S
